US05174308
2-(3-Hexyl-2-hydroxy-4-phenyl-3-buten-1-yl)-3-methylpyrazine
To a solution of lithium diisopropylamide (1.5 Molar, 73.3 mL, 0.11 mole) in 150 mL of tetrahydrofuran at -78° C. is added slowly to a solution of 2,3-dimethylpyrazine (10.8 g, 0.1 mole) in 100 mL of tetrahydrofuran. The mixture is allowed to warm to room temperature and then cooled to -78° C. A solution of α-hexylcinnamaldehyde (23.7 g, 0.11 mole) in 100 mL of tetrahydrofuran is added dropwise over 15 minutes. The reaction product mixture is then worked up according to the procedures of Example I to provide the title compound.

reactant | lithium diisopropylamide | 0.11 mole, 1.5 Molar, 73.3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,3-dimethylpyrazine | 0.1 mole, 10.8 g | CC1=NC=CN=C1C | C6H8N2
reactant | α-hexylcinnamaldehyde | 0.11 mole, 23.7 g | C(CCCCC)C(C=O)=CC1=CC=CC=C1 | C15H20O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(3-Hexyl-2-hydroxy-4-phenyl-3-buten-1-yl)-3-methylpyrazine | C(CCCCC)C(C(CC1=NC=CN=C1C)O)=CC1=CC=CC=C1 | C21H28N2O
